US05578605
(C). 2-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperidinyl]ethylamine
To a solution of [4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]-acetonitrile (6.1 g, 23.6 mmol) in dry THF (235 ml) was added (dropwise) lithium aluminum hydride (LAH) (28.4 mmol, 1.0M in THF) at room temperature, under nitrogen. Upon complete addition, the reaction mixture was warmed to reflux for 3 hours. After cooling to 0 C in an ice bath, the reaction was carefully quenched with water (4.0 ml). The solids were removed via filtration and washed with THF. The combined filtrates were concentrated to give 5.6 g of the desired product. This material was suspended in DCM and filtered to give the product as an off-white solid, m.p. 125°-128° C.

reactant | [4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]-acetonitrile | 23.6 mmol, 6.1 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CC#N | C14H15FN4
reactant | lithium aluminum hydride | 28.4 mmol, 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 235 ml | C1CCOC1 | C4H8O
product | 2-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperidinyl]ethylamine | 5.6 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCN | C14H19FN4
